US06696473B2
A. Preparation of 5-Acetamidobenzothiazole
To a solution of intermediate 3′-amino-4′-mercaptoacetanilide in HOAc (50 mL) was added ethoxymethylene malononitrile (1.95 g, 16 mmol) and the resulting mixture was refluxed at 125° C. for 5 h. After cooling, the product mixture was concentrated under reduced pressure, and the residue was partitioned between satd aqueous NaHCO3 and EtOAc. The aqueous phase was extracted with EtOAc, and the combined extracts were washed with brine, dried over Na2SO4 and concentrated. The residue was purified by chromatography on silica gel, eluting with EtOAc-Hex (0:100 to 50:50) to give the title compound (508 mg, 17%) as a yellow solid. 1H-NMR (DMSO-d6): δ 9.35 (1H, s), 8.53(1H, s), 8.10 (1H, d), 7.63 (1H, d), 2.15 (3H, s).

reactant | 3′-amino-4′-mercaptoacetanilide | NC=1C=C(NC(C)=O)C=CC1S | C8H10N2OS
reactant | ethoxymethylene malononitrile | 16 mmol, 1.95 g | C(C)OC=C(C#N)C#N | C6H6N2O
solvent | HOAc | 50 mL | CC(=O)O | C2H4O2
product | 5-Acetamidobenzothiazole | 508 mg, 17% | C(C)(=O)NC=1C=CC2=C(N=CS2)C1 | C9H8N2OS
